US04071541
Two side reactions could in theory occur in the extraction column, namely the reaction of hydrogen peroxide with sulphuric acid to form Caro's acid and the reaction of propionic acid with perpropionic acid to give propionyl peroxide. However the simultaneous extraction into the organic phase constituted by the propylene dichloride has the general effect of minimising these side reactions.

reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | perpropionic acid | CCC(=O)OO | C3H6O3
product | propionyl peroxide | C(CC)(=O)OOC(CC)=O | C6H10O4
